US04582833
The procedure of Example 6 was repeated, substituting 57.0 g (0.27 moles) of 2-bromoethyl phenyl ether for 2-bromoethyl p-bromophenyl ether, using 61.6 g (0.54 moles) of 1-formylpiperazine in 300 ml of 2-propanol and refluxing the mixture for 8 hours. Evaporation of the final dried chloroform extracts gave 35 g of 1-[2-phenoxyethyl]piperazine as an oil.

reactant | 2-bromoethyl p-bromophenyl ether | BrC1=CC=C(C=C1)OCCBr | C8H8Br2O
reactant | 1-formylpiperazine | 0.54 moles, 61.6 g | C(=O)N1CCNCC1 | C5H10N2O
solvent | 2-propanol | 300 ml | CC(C)O | C3H8O
product | 1-[2-phenoxyethyl]piperazine | 35 g | O(C1=CC=CC=C1)CCN1CCNCC1 | C12H18N2O
